US04954518
7-Methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one was reacted with benzoyl chloride in the presence of aluminum chloride to obtain 7-(N-benzoyl-N-methylsulfonylamino)-6-phenoxy-4H-1-benzopyran-4-one.

reactant | 7-Methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one | CS(=O)(=O)NC1=CC2=C(C(C=CO2)=O)C=C1OC1=CC=CC=C1 | C16H13NO5S
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 7-(N-benzoyl-N-methylsulfonylamino)-6-phenoxy-4H-1-benzopyran-4-one | C(C1=CC=CC=C1)(=O)N(S(=O)(=O)C)C1=CC2=C(C(C=CO2)=O)C=C1OC1=CC=CC=C1 | C23H17NO6S
